US06177423B1
(S)-[1-(2-Allyloxy-4,7-dichloro-1,3-dioxo-2,3-dihydro-1H-benzo[de]isoquinolin 6-yl)pyrrolidine-3-yl]carbamic acid tert-butyl ester
A suspension of 2-allyloxy-4,6,7-trichlorobenzo[de]isoquinoline-1,3-dione (0.44 g, 1.2 mmol, from Example I4), (S)-pyrrolidin-3-ylcarbamic acid tert-butyl ester (0.3 g, 1.5 mmol), triethylamine (0.2 g, 2.0 mmol), and 20 mL of acetonitrile was stirred at room temperature for 6 hours. The solvent was removed in vacuo and the residue partitioned between water and dichloromethane. The organic layer was dried and evaporated in vacuo. The residue was chromatographed on silica gel (ICN 230-400 mesh) eluting with dichloromethane/ethyl acetate (80:20) to give 0.35 g of the title compound, mp 123-125° C.

reactant | 2-allyloxy-4,6,7-trichlorobenzo[de]isoquinoline-1,3-dione | 1.2 mmol, 0.44 g | C(C=C)ON1C(C2=CC=C(C=3C2=C(C1=O)C(=CC3Cl)Cl)Cl)=O | C15H8Cl3NO3
reactant | (S)-pyrrolidin-3-ylcarbamic acid tert-butyl ester | 1.5 mmol, 0.3 g | C(C)(C)(C)OC(N[C@@H]1CNCC1)=O | C9H18N2O2
reactant | triethylamine | 2.0 mmol, 0.2 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | (S)-[1-(2-Allyloxy-4,7-dichloro-1,3-dioxo-2,3-dihydro-1H-benzo[de]isoquinolin 6-yl)pyrrolidine-3-yl]carbamic acid tert-butyl ester | 0.35 g | C(C)(C)(C)OC(N[C@@H]1CN(CC1)C=1C=C(C=2C(N(C(C3=CC=C(C1C23)Cl)=O)OCC=C)=O)Cl)=O | C24H25Cl2N3O5
